US05532255
A solution of 1 g of tert-butyl 1-(3-(4-benzyloxycarbonylaminomethylphenyl)-2-oxo-5-oxazolidinylmethyl)piperidine-4-oxyacetate (obtainable from 3-(4-benzyloxycarbonylaminomethylphenyl)-5-chloromethyl-2-oxazolidinone and tert-butyl piperidine-4-oxyacetate in accordance with the method described in Example 3) in a mixture of 38 ml of methanol, 6 ml of water and 6 ml of acetic acid is hydrogenated on 0.6 g of 5% Pd-carbon at 20° and 1 bar until H2 uptake has ceased. The mixture is filtered and the filtrate is concentrated by evaporation, and tert-butyl 1-(3-(4-aminomethylphenyl)-2-oxo-5-oxazolidinylmethyl)piperidine-4-oxyacetate is obtained, m.p. 95°-96°, FAB 420.

reactant | tert-butyl 1-(3-(4-benzyloxycarbonylaminomethylphenyl)-2-oxo-5-oxazolidinylmethyl)piperidine-4-oxyacetate | 1 g | C(C1=CC=CC=C1)OC(=O)NCC1=CC=C(C=C1)N1C(OC(C1)CN1CCC(CC1)OCC(=O)OC(C)(C)C)=O | C30H39N3O7
reactant | 3-(4-benzyloxycarbonylaminomethylphenyl)-5-chloromethyl-2-oxazolidinone | C(C1=CC=CC=C1)OC(=O)NCC1=CC=C(C=C1)N1C(OC(C1)CCl)=O | C19H19ClN2O4
reactant | tert-butyl piperidine-4-oxyacetate | N1CCC(CC1)OCC(=O)OC(C)(C)C | C11H21NO3
reactant | water | 6 ml | O | H2O
solvent | methanol | 38 ml | CO | CH4O
catalyst | Pd carbon | 0.6 g | [Pd].[C]
solvent | acetic acid | 6 ml | C(C)(=O)O | C2H4O2
product | tert-butyl 1-(3-(4-aminomethylphenyl)-2-oxo-5-oxazolidinylmethyl)piperidine-4-oxyacetate | NCC1=CC=C(C=C1)N1C(OC(C1)CN1CCC(CC1)OCC(=O)OC(C)(C)C)=O | C22H33N3O5
